US06716851B2
4-(2-Chloro-5-methoxyanilino)-6-(methoxymethyl)-2-(3-methylphenyl)pyrimidine
The title compound was prepared from a mixture of 4-chloro-6-(methoxymethyl)-2-(3-methylphenyl)pyrimidine (50 mg, 0.201 mmol) and 2-chloro-5-methoxyaniline (39 mg, 0.201 mmol) similar to Example 13 and isolated as a white solid (18 mg, 24%). 1H NMR (CDCl3): 8.27-8.25 (m, 3H), 7.40 (t, J=7.7 Hz, 1H), 7.34 (d, J=8.7 Hz, 1H), 7.33 (s, 1H), 7.19 (s, 1H), 6.83 (s, 1H), 6.66 (dd, J=3.0, 9.0 Hz, 1H), 4.59 (s, 2H), 3.93 (s, 3H), 3.58 (s, 3H), 2.47 (s, 3H).

reactant | 4-chloro-6-(methoxymethyl)-2-(3-methylphenyl)pyrimidine | 0.201 mmol, 50 mg | ClC1=NC(=NC(=C1)COC)C1=CC(=CC=C1)C | C13H13ClN2O
reactant | 2-chloro-5-methoxyaniline | 0.201 mmol, 39 mg | ClC1=C(N)C=C(C=C1)OC | C7H8ClNO
product | 4-(2-Chloro-5-methoxyanilino)-6-(methoxymethyl)-2-(3-methylphenyl)pyrimidine | ClC1=C(NC2=NC(=NC(=C2)COC)C2=CC(=CC=C2)C)C=C(C=C1)OC | C20H20ClN3O2
